US04478849
1-(4-Pivaloyloxymethyloxycarbonylphenyl)propan-2-one
Sodium hydride (0.48 g) was added to 4-acetonylbenzoic acid (3.56 g) in acetonitrile and the solution refluxed for 1/2 hour. Chloromethyl pivalate (3.02 g) was then added and the mixture refluxed for 22 hours. Acetonitrile was removed, the residue partitioned between ether and water and the organic layer separated and washed with sodium bicarbonate solution (×2). The ether layer was dried (MgSO4) and evaporated to give the title compound which was crystallised and recrystallised from hexane. τ (CDCl3) 8.77 (9H, s), 7.82 (3H, s), 6.25 (2H, s), 4.02 (2H, s), 2.73 (2H, d, J=9 Hz), 1.96 (2H, d, J=9 Hz).

reactant | Sodium hydride | 0.48 g | [H-].[Na+]
reactant | 4-acetonylbenzoic acid | 3.56 g | C(C(=O)C)C1=CC=C(C(=O)O)C=C1 | C10H10O3
reactant | Chloromethyl pivalate | 3.02 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-Pivaloyloxymethyloxycarbonylphenyl)propan-2-one | C(C(C)(C)C)(=O)OCOC(=O)C1=CC=C(C=C1)CC(C)=O | C16H20O5
